US04994106
(b) 5-(4-Ethylphenyl)-3-hydroxy-2-cyclohexen-1-one
144 g (0.83 mol) of 4-(4-ethylphenyl)-3-buten-2-one dissolved in a small amount of methanol is dripped into 109 g (0.83 mol) of dimethyl malonate and 45 g (0.83 mol) of sodium methylate in 40 ml of methanol. The mixture is stirred at reflux for 3 hours and for 10 hours at room temperature. The methanol is distilled off, and the residue is taken up in 2 liters of 10% strength potassium hydroxide solution and stirred for 8 hours at room temperature. At 60° C., the mixture is acidified to pH 1 with concentrated hydrochloric acid. The mixture is stirred for a further 2 hours and suction filtered, and the precipitate is dried under reduced pressure.

reactant | 4-(4-ethylphenyl)-3-buten-2-one | 0.83 mol, 144 g | C(C)C1=CC=C(C=C1)C=CC(C)=O | C12H14O
reactant | dimethyl malonate | 0.83 mol, 109 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium methylate | 0.83 mol, 45 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 5-(4-Ethylphenyl)-3-hydroxy-2-cyclohexen-1-one | C(C)C1=CC=C(C=C1)C1CC(=CC(C1)=O)O | C14H16O2
